US07767675B2
Step 3. 5-(2-aminopyrimidin-5-yl)-2-cyclopropylisoindolin-1-one
A solution of potassium carbonate (0.10 g, 0.75 mmol) in water (0.7 mL) was added to a mixture of 5-bromo-2-cyclopropylisoindolin-1-one (0.095 g, 0.38 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (0.12 g, 0.56 mmol), and tetrakis(triphenylphosphine)palladium (0.02 g, 0.02 mmol) in toluene (1.4 mL) and ethanol (0.7 mL). The resulting mixture was heated at 120° C. for 15 min. The reaction mixture was then quenched with saturated sodium bicarbonate (5 mL) and extracted with EtOAc. The organic layers were washed with brine, dried with anhydrous Na2SO4, filtered, and concentrated. The residue was purified by chromatography on silica gel with 10% methanol in dichloromethane to afford the desired product (0.046 g, 46%). LCMS: (M+H)=267.1.

reactant | potassium carbonate | 0.75 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-bromo-2-cyclopropylisoindolin-1-one | 0.38 mmol, 0.095 g | BrC=1C=C2CN(C(C2=CC1)=O)C1CC1 | C11H10BrNO
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 0.56 mmol, 0.12 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
solvent | water | 0.7 mL | O | H2O
solvent | toluene | 1.4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.7 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-aminopyrimidin-5-yl)-2-cyclopropylisoindolin-1-one | 0.046 g, 46% | NC1=NC=C(C=N1)C=1C=C2CN(C(C2=CC1)=O)C1CC1 | C15H14N4O
